US09227962B2
To a suspension of 5-bromoindolin-2-one (600 mg, 2.83 mmol) in 1,4-Dioxane (9 ml) and H2O (3 ml) were added tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.05 g, 3.40 mmol), Pd(PPh3)4 (164 mg, 0.142 mmol) and K2CO3 (1.17 g, 8.50 mmol). After stirring at 120° C. in microwave reactor for 1 h, the reaction mixture was diluted with sat. NaHCO3 aq. and extracted with CHCl3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (CHCl3/MeOH) to give tert-butyl 4-(2-oxoindolin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (912 mg) as mixture with triphenylphosphin oxide.

reactant | 5-bromoindolin-2-one | 2.83 mmol, 600 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 3.40 mmol, 1.05 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K2CO3 | 8.50 mmol, 1.17 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-Dioxane | 9 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 3 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 0.142 mmol, 164 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(2-oxoindolin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 912 mg | O=C1NC2=CC=C(C=C2C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C18H22N2O3
